US04762843
The procedure of Rimek and Zymalkowski (Arch. Pharm. 1961, 294, 759-765) was followed. Over a period of 1 hour, 40.9 g (0.757 mol) of freshly-distilled propiolaldehyde was added dropwise to a solution of 42.1 g (0.379 mol) of 3-amino-2-cyclohexenone in 1.5 1 of N,N-dimethylformamide (DMF). The solution was stirred at room temperature for 12 hours. The DMF was evaporated at reduced pressure. Vacuum distillation (bp 60°-65° C. at 0.025-0.050 mmHg) of the resultant black tars gave 30.2 g (54.2%) of 7,8-dihydro-5(6H)-quinolinone as a colorless liquid.

reactant | propiolaldehyde | 0.757 mol, 40.9 g | C(C#C)=O | C3H2O
reactant | 3-amino-2-cyclohexenone | 0.379 mol, 42.1 g | NC1=CC(CCC1)=O | C6H9NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 7,8-dihydro-5(6H)-quinolinone | 30.2 g, 54.2% | N1=CC=CC=2C(CCCC12)=O | C9H9NO
